US07888349B2
Methanesulfonyl chloride (2.54 mL, 32.6 g) was added to a solution of 9,10,11,12-tetrahydro-8H-[1,4]diazepino[1′,2′:1,2]imidazo[4,5-c]quinoline hydrochloride (7.47 g, 27.2 mmol) and triethylamine (22.73 mL, 163.1 mmol) in DMF (50 mL). The reaction was stirred overnight at ambient temperature and then concentrated under reduced pressure to provide 3.065 g of 9-(methylsulfonyl)-9,10,11,12-tetrahydro-8H-[1,4]diazepino[1′,2′:1,2]imidazo[4,5-c]quinoline.

reactant | Methanesulfonyl chloride | 2.54 mL, 32.6 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 9,10,11,12-tetrahydro-8H-[1,4]diazepino[1′,2′:1,2]imidazo[4,5-c]quinoline hydrochloride | 27.2 mmol, 7.47 g | Cl.C1=C2C3=C(C=NC2=CC=C1)N=C1N3CCCNC1
reactant | triethylamine | 163.1 mmol, 22.73 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 9-(methylsulfonyl)-9,10,11,12-tetrahydro-8H-[1,4]diazepino[1′,2′:1,2]imidazo[4,5-c]quinoline | 3.065 g | CS(=O)(=O)N1CC=2N(C3=C(C=NC4=CC=CC=C34)N2)CCC1 | C15H16N4O2S
